US08372379B2
Dimethyl 1-trityl-3,5-pyrazoledicarboxylate:
This compound is a white microcrystalline solid that has been isolated following the methodology described in 2b for ethyl-1-tritylpyrazole-4-carboxylate, by reaction of with dimethyl-3,5-pyrazoledicarboxylate (1.411 g, 7.66 mmol) with sodium hydride (250 mg, 10.41 mmol) in dry dimethylformamide (20 mL), followed by treatment with trityl chloride (2.135 g, 7.66 mmol). Yield: 98% (3.200 g, 7.50 mmol).

reactant | ethyl-1-tritylpyrazole-4-carboxylate | C(C)OC(=O)C=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
reactant | dimethyl-3,5-pyrazoledicarboxylate | 7.66 mmol, 1.411 g | COC(=O)C1=NNC(=C1)C(=O)OC | C7H8N2O4
reactant | sodium hydride | 10.41 mmol, 250 mg | [H-].[Na+]
reactant | trityl chloride | 7.66 mmol, 2.135 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Dimethyl 1-trityl-3,5-pyrazoledicarboxylate | Yield: 98% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(C=C1C(=O)OC)C(=O)OC | C26H22N2O4
